2199-12-28 11:53:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   Seizure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Dilantin/Keppra and Versed for seizure control
   Patient without recurrent seizure activity noted.
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2199-12-26**] 08:00 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever, 99.4
   Nutritional Support: NPO
   Gastrointestinal: No(t) Abdominal pain
   Genitourinary: Foley
   Flowsheet Data as of  [**2199-12-28**] 11:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.7
C (99.9
   HR: 82 (74 - 103) bpm
   BP: 104/36(54) {91/36(45) - 135/79(98)} mmHg
   RR: 19 (16 - 29) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 86.8 kg (admission): 81 kg
             Total In:
                                                                  3,329 mL
                                                                  1,411 mL
   PO:
             TF:
                                                                  1,800 mL
                                                                    871 mL
   IVF:
                                                                    309 mL
                                                                    139 mL
   Blood products:
   Total out:
                                                                  2,223 mL
                                                                    685 mL
   Urine:
                                                                    863 mL
                                                                    535 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,106 mL
                                                                    726 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 415 (415 - 415) mL
   PS : 10 cmH2O
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: RR >35
   PIP: 32 cmH2O
   Plateau: 24 cmH2O
   Compliance: 31.3 cmH2O/mL
   SpO2: 100%
   ABG: ///28/
   Ve: 9.3 L/min
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: Disconjugate gaze--suggested to be chronic by
   neurology evaluation team
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Noxious stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.2 g/dL
   69 K/uL
   215 mg/dL
   0.7 mg/dL
   28 mEq/L
   4.4 mEq/L
   16 mg/dL
   108 mEq/L
   141 mEq/L
   24.6 %
   3.5 K/uL
        [image002.jpg]
                             [**2199-12-24**]  08:53 PM
                             [**2199-12-24**]  09:05 PM
                             [**2199-12-25**]  01:51 AM
                             [**2199-12-25**]  05:22 AM
                             [**2199-12-25**]  05:06 PM
                             [**2199-12-26**]  01:16 AM
                             [**2199-12-26**]  04:45 PM
                             [**2199-12-27**]  01:30 AM
                             [**2199-12-27**]  05:08 PM
                             [**2199-12-28**]  03:23 AM
   WBC
   2.3
   2.4
   2.5
   3.4
   3.5
   Hct
   25.4
   26.0
   26.2
   27.2
   24.6
   Plt
   69
   76
   74
   71
   69
   Cr
   1.1
   0.9
   0.9
   0.7
   0.8
   0.8
   0.7
   TCO2
   31
   34
   Glucose
   173
   113
   215
   127
   167
   182
   215
   Other labs: PT / PTT / INR:15.7/30.3/1.4, ALT / AST:18/20, Alk Phos / T
   Bili:110/0.2, Differential-Neuts:74.6 %, Lymph:17.2 %, Mono:4.7 %,
   Eos:2.9 %, Lactic Acid:2.7 mmol/L, Ca++:8.2 mg/dL, Mg++:2.0 mg/dL,
   PO4:2.4 mg/dL
   Assessment and Plan
   64 yo male admit with pneumonia and with respiratory failure in the
   setting of recurrent seizure activity and known seizure disorder.  He
   does have ongoing input from Neurology in regards to management of
   seizure disorder and by their report there is not evidence of current
   active seizure.  His intubation was in large part related to seizure
   activity and altered mental status but has been slow to be able to move
   to weaning in large part due to altered mental status.
   1)Respiratory Failure-Patient with CMV support in place
he has plateau
   at 24 suggesting reasonable compliance with PEEP=8 and Vt=500.  Would
   favor move to PSV this morning.
   -Continue PSV wean
   -Move to SBT and Extubation to be limited by mental status
   -Will wean Versed as possible given agitation
   -Repeat CXR in morning
   -Minimal secretions
   -Goal is to be able to move to extubation tomorrow
   2)Seizure Disorder-
   -Versed 2mg/hr
   -Thiamine/Folate
   -Keppra
   -Dilantin
   -Topomax to increase today to 200mg today
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 SEIZURE, WITHOUT STATUS EPILEPTICUS
 HYPOTENSION (NOT SHOCK)
 OLIGURIA/ANURIA-_Will maintain fluid balance positive today
check
   FeNA
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2199-12-28**] 08:28 AM 75 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2199-12-25**] 04:59 PM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2199-12-29 08:58:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   --Trial of move to PSV limited by agitation and tachypnea/decrease Vt
   History obtained from Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Other ICU medications:
   Fosphenytoin - [**2199-12-28**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2199-12-29**] 12:00 AM
   Midazolam (Versed) - [**2199-12-29**] 05:25 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: Tachypnea
   Flowsheet Data as of  [**2199-12-29**] 08:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.3
C (97.3
   HR: 76 (73 - 89) bpm
   BP: 106/63(73) {92/36(45) - 125/68(83)} mmHg
   RR: 26 (16 - 36) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 89.5 kg (admission): 81 kg
             Total In:
                                                                  3,850 mL
                                                                  1,664 mL
   PO:
             TF:
                                                                  1,803 mL
                                                                    653 mL
   IVF:
                                                                    868 mL
                                                                    272 mL
   Blood products:
   Total out:
                                                                  1,868 mL
                                                                    490 mL
   Urine:
                                                                    918 mL
                                                                    390 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,982 mL
                                                                  1,176 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 384 (351 - 409) mL
   PS : 14 cmH2O
   RR (Set): 20
   RR (Spontaneous): 29
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 136
   PIP: 28 cmH2O
   Plateau: 22 cmH2O
   SpO2: 100%
   ABG: 7.35/54/155/28/3
   Ve: 8.7 L/min
   PaO2 / FiO2: 310
   Physical Examination
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Musculoskeletal: Unable to stand
   Skin:  Not assessed
   Neurologic: Responds to: Tactile stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.3 g/dL
   86 K/uL
   146 mg/dL
   0.7 mg/dL
   28 mEq/L
   4.3 mEq/L
   18 mg/dL
   106 mEq/L
   140 mEq/L
   26.1 %
   4.1 K/uL
        [image002.jpg]
                             [**2199-12-25**]  05:22 AM
                             [**2199-12-25**]  05:06 PM
                             [**2199-12-26**]  01:16 AM
                             [**2199-12-26**]  04:45 PM
                             [**2199-12-27**]  01:30 AM
                             [**2199-12-27**]  05:08 PM
                             [**2199-12-28**]  03:23 AM
                             [**2199-12-28**]  01:06 PM
                             [**2199-12-28**]  04:50 PM
                             [**2199-12-29**]  04:45 AM
   WBC
   2.4
   2.5
   3.4
   3.5
   4.1
   Hct
   26.0
   26.2
   27.2
   24.6
   26.1
   Plt
   76
   74
   71
   69
   86
   Cr
   0.9
   0.7
   0.8
   0.8
   0.7
   0.8
   0.7
   TCO2
   34
   31
   Glucose
   [**Telephone/Fax (3) 7439**]82
   215
   162
   146
   Other labs: PT / PTT / INR:14.2/33.6/1.2, ALT / AST:18/20, Alk Phos / T
   Bili:110/0.2, Differential-Neuts:74.6 %, Lymph:17.2 %, Mono:4.7 %,
   Eos:2.9 %, Lactic Acid:2.7 mmol/L, Ca++:7.6 mg/dL, Mg++:1.9 mg/dL,
   PO4:2.9 mg/dL
   Fluid analysis / Other labs: 7.35/54/155
   Imaging: CXR-no significant change
   Microbiology: Sputum--Rare oral flora
   Assessment and Plan
   64 yo male with h/o cirrhosis and now admit with respiratory failure
   and in that setting signficant seizure activity.  He has had continued
   titration of anti-seizure medications as we move to wean sedation and
   attempt liberation from mechanical ventilation.  This has been limited
   by rapid move to elevated RR and decrease in Vt with PSV--the
   contributors would seem to be an easy capacity for dynamic
   hyperinflation/autopeep generation--if you look at his ventilator right
   now with RR-24-27 he has minimal autopeep but has clear exp flow at the
   time of initiation of the next breath--simple increase in respiratory
   rate may contribute to gas trapping and further decrease in effective
   ventilation (Ve=12 and PCO2=54 now) and "failure".  Will-->
   1)Respiratory Faliure-
   -Continue A/C
   -Keep PEEP at 8
   -Diuresis today
   2)Seizure-
   -Medication dosing per neurology
   -Wean of Versed as possible
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 SEIZURE, WITHOUT STATUS EPILEPTICUS
 HYPOTENSION (NOT SHOCK)
 OLIGURIA/ANURIA
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2199-12-28**] 09:46 PM 75 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2199-12-25**] 04:59 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill